datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[S:6])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:19]([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([S:6][H:20])([H:18])[O:19][H:21])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],102.7172
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14].[H:12][H:38],28.267104
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])[H:12],70.8351
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:6](=[C:7]([H:9])[H:10])[H:8],-1.84096
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[O:7][O:8][H:9]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:9].[O:7][O:8],0.0
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[S:9]=[C:10][S:11][H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10](=[S:9])[S:11][H:12],23.012
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16])[H:7])([H:5])[H:6],31.631
[C:0](=[C:1]=[O:2])[H:3].[O:4][H:5]>>[C:0]=[C:1]=[O:2].[H:3][O:4][H:5],0.0
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[O:7][H:8]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][O:7][H:8],0.640152
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:24])[H:25])[H:23])=[C:10]([C:11](=[C:12]([H:28])[H:29])[H:27])[H:26])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([C:8](=[C:9]([H:24])[H:25])[H:23])[C:10]1([C:11](=[C:12]([H:28])[H:29])[H:27])[H:26])[H:13],50.0825
[C:0]([C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[C:5]([H:15])[H:16])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:14],42.6768
[C:4](=[C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])[H:9])[H:8].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4](=[C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])[H:9])[H:8].[O:0][O:1][H:3],-2.493664
[C:0]1=[C:1]([H:9])[C:2]2([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]2([H:15])[C:8]1([H:16])[H:17]>>[C:0]1([H:16])=[C:1]([H:9])[C:2]2([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]2([H:15])[C:8]1[H:17],200.196032
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[O:12][O:13][H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:12][O:13][H:14],29.95744
[c:0]1([H:10])[c:1]([H:11])[c:2]([H:12])[c:3]2[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]2[c:9]1[H:17]>>[H:13].[c:0]1([H:10])[c:1]([H:11])[c:2]([H:12])[c:3]2[c:4][c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]2[c:9]1[H:17],619.549984
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:12]([C:13]([C:14]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])[H:5],33.0118
[C:0]1([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])=[C:4]([H:10])[C:5]1([H:11])[H:12]>>[H:11].[c:0]1([H:6])[c:1]([H:7])[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]1[H:12],114.6416
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([S:7][H:10])([H:8])[H:9]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:6]([S:7][H:10])([H:8])[H:9],2.5104
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:5])[H:4],31.129
